US07795283B2
i) Ethyl 3-(4-nitrobenzyl)cyclobutanecarboxylate
A mixture of concentrated nitric acid (0.5 mL) and concentrated sulphuric acid (0.8 mL) was added slowly with stirring to an ice-cooled solution of ethyl 3-benzylcyclobutanecarboxylate (German Patent DE 2626287) (876 mmol, 4.02 mmol) in nitrobenzene (2 mL). The reaction mixture was warmed to ambient temperature and stirred for 1.5 h then poured onto ice/water. DCM (5 mL) was added and the mixture was stirred before passing through a phase separation cartridge. Solvent was removed by evaporation to give the title compound that was used directly in the next step.

reactant | nitric acid | 0.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 0.8 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 3-benzylcyclobutanecarboxylate | 876 mmol | C(C1=CC=CC=C1)C1CC(C1)C(=O)OCC | C14H18O2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | nitrobenzene | 2 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | Ethyl 3-(4-nitrobenzyl)cyclobutanecarboxylate | [N+](=O)([O-])C1=CC=C(CC2CC(C2)C(=O)OCC)C=C1 | C14H17NO4
